US08076482B2
Preparation of intermediate E/Z-1-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-cyclobutanecarboxylic acid methyl ester
To the mixture of 6-chlorooxindole (10 g, 60 mmol) and 1-(4-chloro-2-formyl-phenoxy)-cyclobutanecarboxylic acid methyl ester (18 g, 67 mmol) in methanol (100 mL) was added pyrrolidine (4.5 mg, 63 mmol) dropwise. The mixture was then heated at 80° C. for 1 h. After cooled to room temperature, the mixture was filtered and the precipitate was collected, dried to give the title compound (6 g).

reactant | 6-chlorooxindole | 60 mmol, 10 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | 1-(4-chloro-2-formyl-phenoxy)-cyclobutanecarboxylic acid methyl ester | 67 mmol, 18 g | COC(=O)C1(CCC1)OC1=C(C=C(C=C1)Cl)C=O | C13H13ClO4
reactant | pyrrolidine | 63 mmol, 4.5 mg | N1CCCC1 | C4H9N
solvent | methanol | 100 mL | CO | CH4O
product | Z-1-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-cyclobutanecarboxylic acid methyl ester | 6 g | COC(=O)C1(CCC1)OC1=C(C=C(C=C1)Cl)\C=C\1/C(NC2=CC(=CC=C12)Cl)=O | C21H17Cl2NO4
